US08258160B2
Preparation of N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide
To a solution of N-benzyl-2-bromo-4-methylthiazole-5-carboxamide (0.10 g, 0.32 mmol) in anhydrous toluene (1 mL) was added copper(I) iodide (0.001 g, 0.006 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.005 g, 0.006 mmol), and N,N-diisopropylethylamine (0.17 mL, 0.97 mmol). The reaction mixture was degassed and the reaction flask was filled with nitrogen followed by the addition of trimethylsilylacetylene (0.089 mL, 0.64 mmol). The reaction mixture was heated at 35° C. for 3 hours, cooled to ambient temperature and treated with 1 M aqueous lithium hydroxide (1.0 mL) for 5 minutes, diluted with ethyl acetate (10 mL), washed with water (3 mL) and brine (3 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate:hexanes, 1:1) to afford the title compound as a brown solid (0.035 g, 93%): 1H NMR (300 MHz, CDCl3) δ 7.43-7.21 (m, 5H), 6.17 (t, J=5.7 Hz, 1H), 4.56 (d, J=5.7 Hz, 2H), 3.49 (s, 1H), 2.65 (s, 3H); MS (ES+) m/z 257.2 (M+1).

reactant | N-benzyl-2-bromo-4-methylthiazole-5-carboxamide | 0.32 mmol, 0.10 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)Br)C | C12H11BrN2OS
reactant | N,N-diisopropylethylamine | 0.97 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trimethylsilylacetylene | 0.64 mmol, 0.089 mL | C[Si](C)(C)C#C | C5H10Si
reactant | lithium hydroxide | 1 M, 1.0 mL | [OH-].[Li+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.006 mmol, 0.001 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.006 mmol, 0.005 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide | 0.035 g, 93% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C#C)C | C14H12N2OS
